US03976653
A mixture of 2.8 g. 2-(p-methoxybenzyl)-3-isopropylidenepiperidine hydrochloride, 0.8 ml. of 35% aqueous formaldehyde solution, 1.4 ml. of triethylamine, and ethanol to a total volume of 50 ml. was shaken at room temperature under 50 p.s.i. of hydrogen. The theoretical quantity of hydrogen was consumed in 1 hour. The reaction mixture was filtered and the residue thus collected was rinsed with a small amount of ethanol. Th filtrate and rinse were combined and evaporated to dryness under reduced pressure and the residue was partitioned between dilute ammonium hydroxide and diethyl ether. The ether layer was washed with water, dried, and filtered, and the filtrate evaporated to dryness under reduced pressure to give 1.9 g of 1-methyl-2-(p-methoxybenzyl)-3-isopropylidenepiperidine as a syrup. This was taken up in 50 ml. of diethyl ether and treated with a slight excess of ethereal hydrogen chloride to precipitate a gum. Addition of 5 ml. of isopropyl alcohol and trituration caused crystallization. Recrystallization from 5 ml. of isopropyl alcohol and 50 ml. of diethyl ether afforded the pure compound which melted at 179°-183°C; ir (KBr) 1670 cm-1 (tetrasubstituted double bond); nmr (of base, CDCl3): 147 (s,3); 93 (s,3); 63 (d3, J=1-2 cps).

reactant | 2-(p-methoxybenzyl)-3-isopropylidenepiperidine hydrochloride | Cl.COC1=CC=C(CC2NCCCC2=C(C)C)C=C1
reactant | formaldehyde | C=O | CH2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-2-(p-methoxybenzyl)-3-isopropylidenepiperidine | 1.9 g | CN1C(C(CCC1)=C(C)C)CC1=CC=C(C=C1)OC | C17H25NO
